### ISSUE TITLE
RFC: Binders for `Std.Do.Assertion` clauses (compatible with `mvcgen`)

### ISSUE THREAD

**Issue by rish987** [leanprover/lean4#9364]
### Proposal

In the example below, we prove the correctness of a function `setZero` which iteratively sets all of the elements of a state `Array Nat` to zero:
```lean
import Std.Tactic.Do

open Std.Do

set_option mvcgen.warning false

abbrev SM := StateM (Array Nat)

abbrev gns : SVal ((Array Nat)::[]) (Array Nat) := fun s => SVal.pure s

noncomputable def setZero : StateM (Array Nat) Unit := do
  let mut i := 0
  let len := (← get).size
  for _ in [0:len] do
    let ns ← get
    if h : i < ns.size then
      modify fun _ => ns.set i 0 h
    i := i + 1

-- see #9363
macro "mvcgen_aux" : tactic => do
  `(tactic|
    (repeat mintro ∀_
     try mframe
     mpure_intro
     simp only [SPred.and_cons, SVal.curry_cons, SVal.curry_nil, SVal.uncurry_cons, SVal.uncurry_nil, SPred.and_nil] at *))

theorem setZero_spec :
   ⦃⌜#gns = ns⌝⦄
   setZero
   ⦃⇓ _ => ⌜(#gns).size = ns.size⌝ ∧ ⌜∀ i, (h : i < (#gns).size) → (#gns)[i]'h = 0⌝⦄ := by
  unfold setZero
  mvcgen

  case inv =>
    exact ⇓ (i, sp) =>
      -- FIXME it would be very convenient to be able to name each of these
      -- components, and have mvcgen automatically call `rcases h with ...` to
      -- destruct it into separate hypotheses (using these names) in every
      -- subsequent goal. Then we wouldn't have to do it ourselves.
      ⌜(#gns).size = ns.size⌝ ∧
      ⌜ i = sp.rpref.length ⌝ ∧
      ⌜∀ j, (j < i) → (h : j < (#gns).size) → (#gns)[j]'h = 0⌝

  -- step.isTrue
  . mvcgen_aux
    rcases h with ⟨hs, hi, hz⟩ -- FIXME

    simp only [← hs]
    simp only [Array.size_set]
    and_intros
    . trivial
    . simp
      exact hi
    intros j hj hjs
    if j < b then
      rw [Array.getElem_set_ne]
      apply hz
      assumption
      omega
      omega
    else
      have : j = b := by omega
      subst this
      apply Array.getElem_set_self

  -- step.isFalse
  . mvcgen_aux
    rcases h with ⟨hs, hi, hz⟩ -- FIXME

    next hns _ _ =>
    have hns := hns.symm
    subst hns
    clear hns

    have hrng_dec_sz : (rpref.reverse ++ x :: suff).length = len := by
      rw [← h]
      simp only [List.length_range', Nat.sub_zero, Nat.add_one_sub_one, Nat.div_one]
    rw [List.length_append, List.length_reverse, List.length_cons] at hrng_dec_sz

    subst hi
    have : rpref.length < ns.size := by omega
    rw [hs] at *
    contradiction

  -- pre1
  . mvcgen_aux

    subst h
    and_intros
    rfl
    rfl
    omega

  -- post.success
  . mvcgen_aux
    rcases h with ⟨hs, hi, hz⟩ -- FIXME

    simp only [List.length_reverse, List.length_range'] at hi
    simp only [Nat.add_one_sub_one, Nat.div_one] at hi

    have hns := h.symm
    subst hns

    simp only [Nat.sub_zero] at hi
    subst hi
    rw [← hs]
    and_intros
    rfl
    intros i hi'
    apply hz
    omega
    omega
```
In nearly every subgoal produced by the loop, we have to destruct the components of the hypothesis `h` via `rcases h with ⟨hs, hi, hz⟩` to get access to its components (without having to futz around with projections). It would be really quite convenient if `mvcgen` was somehow able to do this for us. This would probably require some specialized syntax for the assertion clauses, perhaps something like:
```lean
  case inv =>
    exact ⇓ (i, sp) =>
      -- FIXME it would be very convenient to be able to name each of these
      -- components, and have mvcgen automatically call `rcases h with ...` to
      -- destruct it into separate hypotheses (using these names) in every
      -- subsequent goal. Then we wouldn't have to do it ourselves.
      ⌜hs : (#gns).size = ns.size⌝ ∧
      ⌜hi : i = sp.rpref.length⌝ ∧
      ⌜hz : ∀ j, (j < i) → (h : j < (#gns).size) → (#gns)[j]'h = 0⌝
```

(Lean 4.23.0, commit a4f38cc78250f4c7f813c8d20700d97a53f0d3d6)

### Community Feedback

Mentioned to Sebastian Graf in DMs.

**Comment by sgraf812** [comment]
Isn't this a general issue of Lean goals with conjunctions in a hypothesis? I see that it is annoying to have to do the `rcases` dance, but I would rather see this solved in a way that is orthogonal to `mvcgen`.
Furthermore, while supplying the binder name in the syntax of the predicate seems neat at first, it is pretty unhygienic on second thought.

I think the pain you are feeling stems from having to *prove* a conjunction rather than to *assume* one, and doing so with `simp` as the only available automation. 
It would help if something like `and_intros <;> try grind` would be a dedicated tactic. Indeed in your example, `grind` solves all the goals even without the `rcases`. So perhaps the answer is "use `grind`" :)?

**Comment by rish987** [comment]
> Isn't this a general issue of Lean goals with conjunctions in a hypothesis? I see that it is annoying to have to do the `rcases` dance, but I would rather see this solved in a way that is orthogonal to `mvcgen`.
> Furthermore, while supplying the binder name in the syntax of the predicate seems neat at first, it is pretty unhygienic on second thought.

Yeah, it is indeed a general issue, but it's even more apparent with program proofs involving loops, where you specify loop invariants (which very often have multiple components) that propogate to multiple subgoals. The need for this particular utility may not come up very often in other proof contexts where you often only need one instance of `rcases` for each and-conjuncted hypothesis.

It would be nice to address this more generally as you suggest, but I'm not sure exactly what the higher level of abstraction we would need to tackle here is. It seems that the only real simlarity between `SPred.and` and `And` is the fact that they're binary predicates that use the same notation (well, `SPred.and` isn't even a predicate, since it's not in `Prop`).

> I think the pain you are feeling stems from having to _prove_ a conjunction rather than to _assume_ one, and doing so with `simp` as the only available automation.
> It would help if something like `and_intros <;> try grind` would be a dedicated tactic. Indeed in your example, `grind` solves all the goals even without the `rcases`. So perhaps the answer is "use `grind`" :)?

`grind` does work pretty handily in this case, but that may just be a result of this being an oversimplification. In [my `qpartition` proof](https://github.com/rish987/qsort/blob/ff047a12b4b66b7337cddfd453eeb5a0aa014c32/Qsort/Monadic/Qpartition.lean#L210), for instance (where I originally encoutered this), `grind` does not help me out a whole lot. Though I understand that the tactic is under active development, and perhaps the automation will get there at some point, for the time being it seems like it was necessary in that proof for me to replicate the use of `rcases ...` in every subgoal that was produced by `forIn_range`.

**Comment by sgraf812** [comment]
Is it important for you to refer to the hypotheses by name or is it rather that the conjunction hypothesis isn't useful for e.g., `simp [*]` and you would be fine with inaccessible hyp names for the conjuncts?

**Comment by rish987** [comment]
In my `qpartition` proof I do need to refer to them by name, in particular I often call `apply` on the `hl` and `hr` hypotheses that I get from the loop invariant.

However, getting back to your idea for a unified way to handle this that would also work for abitrary `And` hypotheses -- if we do implement some more automation to automatically destruct via `rcases` any `And` hypotheses where each clause has been annotated with a binder name, this could, in fact, transfer over to this use case, especially in light of the new `mleave` tactic, where any `SPred.and` hypotheses would be transformed into `And` hypotheses, at which point the automation could be triggered (if the metadata recording the binder names was preserved by the transformation).

**Comment by b-mehta** [comment]
For what it's worth, here's a shorter proof of the correctness of your function:
```
import Std.Tactic.Do

open Std.Do

set_option mvcgen.warning false

noncomputable def setZero : StateM (Array Nat) Unit := do
  let mut i := 0
  let len := (← get).size
  for _ in [0:len] do
    let ns ← get
    if h : i < ns.size then
      modify fun _ => ns.set i 0 h
    i := i + 1

theorem setZero_spec {size : Nat} :
    ⦃fun s ↦ ⌜s.size = size⌝⦄
    setZero
    ⦃⇓ _ s => ⌜s = Array.replicate size 0⌝⦄ := by
  mvcgen [setZero]
  case inv => exact ⇓ ⟨i, sp⟩ s => ⌜s.size = size ∧ i = sp.pref.length ∧ ∀ j < i, j < size → s[j]? = some 0⌝
  all_goals 
    simp_all [-Array.getElem?_eq_getElem, -getElem?_pos] <;> grind
```
I imagine it's not hard to change this postcondition into the specific form you have after the fact, although I can't find the lemmas for it right now

**Comment by sgraf812** [comment]
Marking this as low priority. The reason is that with `mleave`, we'll almost always turn all the stateful hypotheses into regular Lean hypotheses under an inaccessible name (exception: polymorphic base monad). My estimate is that it would be quite hacky to implement support for naming parts of the invariant, and the gain is quite low when it's only really useful for when the base monad is polymorphic.
